### PR TITLE
chore: `xor` is just `bne`

### PR DESCRIPTION
**Pull request by astrainfinita**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Init/Data/Bool/Lemmas.lean [hunk 1]
```diff
@@ -167,11 +166,13 @@ theorem or_coe_iff (a b : Bool) : a || b ↔ a ∨ b := by simp
 theorem and_coe_iff (a b : Bool) : a && b ↔ a ∧ b := by simp
 #align band_coe_iff Bool.and_coe_iff
 
-@[simp]
-theorem xor_coe_iff (a b : Bool) : xor a b ↔ Xor' (a = true) (b = true) := by
-  cases a <;> cases b <;> exact by decide
+theorem xor_coe_iff (a b : Bool) : xor a b ↔ ¬a = b := by simp
```
Comment (negiizhao) [inline Mathlib/Init/Data/Bool/Lemmas.lean:169]: Shouldn't these lemmas be called `Bool.coe_*_iff`?

Comment (negiizhao) [reply Mathlib/Init/Data/Bool/Lemmas.lean:169]: #7841

**Comment by negiizhao** [comment]
I forgot about https://github.com/leanprover/std4/pull/183.
